US03959322
Stir a solution of 860 mg. of sodium amide in 15 ml. of benzene and add 3.0 g. of dl-13-ethyl-3-methoxygona-1,3,5(10)-trien-17β-ol in 15 ml. of benzene. Heat for 2 hours at 70°-83°. Cool to room temperature and add 1.58 g. of N,N-dimethylamino-2-chloroethane hydrochloride and reflux for 16 hours. Pour over ice and acidify reaction mixture with 2 N hydrochloric acid. Extract with ether and basify the aqueous layer with 15% sodium hydroxide. Isolate material with ether. Evaporate the ether to obtain dl-13-ethyl-17β-(2-dimethylaminoethoxy)-3-methoxygona-1,3,5(10)-triene.

reactant | sodium amide | [NH2-].[Na+]
reactant | 13-ethyl-3-methoxygona-1,3,5(10)-trien-17β-ol | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)O | C20H28O2
reactant | N,N-dimethylamino-2-chloroethane hydrochloride | Cl.CN(C)CCCl
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 13-ethyl-17β-(2-dimethylaminoethoxy)-3-methoxygona-1,3,5(10)-triene | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)OCCN(C)C | C24H37NO2
